US06177462B1
In a 250 ml single neck flask was charged 7.5 g (43.1 mmoles,1.0 eq) of m-trifluoromethylbenzaldehyde dissolved in 15 ml of acetone. To this was added 17.2 g of 10% aqueous sodium hydroxide solution (43 mmoles, 1.0 eq), dropwise and during the course of addition, temperature was kept no higher than 25° C., while the mixture was agitated continuously for 30 minutes. To the mixture was added 50 ml of water, followed by 100 ml of ethyl acetate, the phases were separated and the organic phase was washed with water three times and then dried, and concentrated to obtain 9.5 g of 4-(3-trifluoromethylphenyl)-3-buten-2-one as a faintly yellow oil in 88.7% yield.

reactant | m-trifluoromethylbenzaldehyde | 43.1 mmoles, 7.5 g, 1.0 eq | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | sodium hydroxide | 43 mmoles, 17.2 g, 1.0 eq | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | acetone | 15 ml | CC(=O)C | C3H6O
product | 4-(3-trifluoromethylphenyl)-3-buten-2-one | 9.5 g, 88.7% yield | FC(C=1C=C(C=CC1)C=CC(C)=O)(F)F | C11H9F3O
